US06777421B2
To a cold (0° C.) solution of methyl 2-(2-thienyl)phenylpropionate (387 mg, 1.57 mmol) and anhydrous lithium chloride (353 mg, 8.32 mmol) in an EtOH/THF mixture (4:3; 28 mL) was added sodium borohydride (315 mg, 8.32 mmol). The reaction mixture was then stirred at room temperature for 20 h. Aqueous NH4Cl (50 mL) was added and the crude product was extracted with EtOAc (2×50 mL). The organic layer was separated, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by flash chromatography (5% EtOAc in hexane) to yield 2-(2-thienyl)phenpropyl alcohol as a light yellow oil.

reactant | methyl 2-(2-thienyl)phenylpropionate | 1.57 mmol, 387 mg | S1C(=CC=C1)C1=C(C=CC=C1)C(C(=O)OC)C | C14H14O2S
reactant | lithium chloride | 8.32 mmol, 353 mg | [Cl-].[Li+]
reactant | sodium borohydride | 8.32 mmol, 315 mg | [BH4-].[Na+]
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | EtOH THF | 28 mL | CCO.C1CCOC1
product | 2-(2-thienyl)phenpropyl alcohol | S1C(=CC=C1)C1=C(CCCO)C=CC=C1 | C13H14OS
